US05998433
To 20 ml of methyl methylsulfinylmethyl sulfide, 1.34 g (33.5 mmol) of powdered sodium hydroxide was added, followed by stirring at 80° C. for 30 minutes. This mixture was added to 9.627 g (100.2 mmol) of 3-furaldehyde, followed by stirring at 80° C. for 3 hours. After this was cooled to room temperature, water was added, followed by 3 extractions with dichloromethane. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (hexane/ethyl acetate=3/1 to 1/2) to yield 2-(3-furyl)-1-(methylsulfinyl)-1-(methylthio)ethylene.

reactant | methyl methylsulfinylmethyl sulfide | 20 ml | CS(=O)CSC | C3H8OS2
reactant | sodium hydroxide | 33.5 mmol, 1.34 g | [OH-].[Na+]
reactant | 3-furaldehyde | 100.2 mmol, 9.627 g | O1C=C(C=C1)C=O | C5H4O2
solvent | water | O | H2O
product | 2-(3-furyl)-1-(methylsulfinyl)-1-(methylthio)ethylene | O1C=C(C=C1)C=C(SC)S(=O)C | C8H10O2S2
